US09169259B2
A mixture of 8-bromo-6-chloroimidazo[1,2-b]pyridazine (573 mg, 2.47 mmol), 6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-amine (540 mg, 2.47 mmol), Pd2(dba)3 (142 mg, 0.25 mmol), BINAP (307 mg, 0.50 mmol), Cs2CO3 (2.4 g, 7.41 mmol) and dioxane (20 mL) was heated to reflux with stirring for 15 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, dichloromethane:MeOH=50:1) to give N-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-yl)-6-chloroimidazo[1,2-b]pyridazin-8-amine (400 mg, crude) as a brown oil. LC-MS: [M+H]+, 371.1, tR=2.23 min.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 2.47 mmol, 573 mg | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | 6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-amine | 2.47 mmol, 540 mg | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)N | C13H21N3
reactant | BINAP | 0.50 mmol, 307 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 7.41 mmol, 2.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.25 mmol, 142 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-yl)-6-chloroimidazo[1,2-b]pyridazin-8-amine | 400 mg | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)Cl)C=CN2 | C19H23ClN6
